### PR TITLE
[Merged by Bors] - chore: golf Logic/ using `grind`

### PR DESCRIPTION
**Pull request by euprunin**

### CODE REVIEW

File: Mathlib/Logic/Equiv/Basic.lean [hunk 1]
```diff
@@ -286,9 +286,7 @@ theorem subtypeEquiv_refl {p : α → Prop} (h : ∀ a, p a ↔ p (Equiv.refl _
 theorem subtypeEquiv_symm {p : α → Prop} {q : β → Prop} (e : α ≃ β) (h : ∀ a : α, p a ↔ q (e a)) :
     (e.subtypeEquiv h).symm =
       e.symm.subtypeEquiv (by as_aux_lemma =>
-        intro a
-        convert (h <| e.symm a).symm
-        exact (e.apply_symm_apply a).symm) :=
+        grind) :=
```
Comment (j-loreaux) [inline Mathlib/Logic/Equiv/Basic.lean]: Probably this fits on one line now.

Comment (euprunin) [reply Mathlib/Logic/Equiv/Basic.lean]: Thanks! Fixed.

**Comment by ghost** [comment]
!bench

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge

**Comment by j-loreaux** [comment]
I really don't understand what's going on with these benchmark results. They aren't supposed to have this much variation in instruction counts, right? And this is affecting things across a bunch of unrelated files. Granted the individual effects are pretty small, and even the total isn't large, I'm just confused.

**Comment by euprunin** [comment]
> Canceled.

Seems like `mathlib-bors` cancelled this one. Is there anything I can do here?

**Comment by j-loreaux** [comment]
I cancelled it, but I've since become convinced that this is just benchmark noise. 

bors merge
